US07517873B2
To a mixture of 0.14 g (0.0005 mole) of (rac)-2-chloro-9-(2,2-dimethyl-cyclopentyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-59), 0.047 mL (0.00075 mole) of iodomethane and 1 mL of N,N-dimethylacetamide at 0 degrees, was added 0.03 g (0.00075 mole) of 60% sodium hydride in oil. The mixture was stirred at ambient temperature for 1 hour, then 20 mL of water was added. The precipitate was collected by filtration to give 0.130 g of (rac)-2-chloro-5-methyl-9-(2,2-dimethyl-cyclopentyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-59) as a yellow solid.

reactant | (rac)-2-chloro-9-(2,2-dimethyl-cyclopentyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.0005 mole, 0.14 g | ClC=1N=CC2=C(N(CCC(N2)=O)C2C(CCC2)(C)C)N1 | C14H19ClN4O
reactant | iodomethane | 0.00075 mole, 0.047 mL | IC | CH3I
reactant | N,N-dimethylacetamide | 1 mL | CN(C(C)=O)C | C4H9NO
reactant | sodium hydride | 0.00075 mole, 0.03 g | [H-].[Na+]
solvent | water | 20 mL | O | H2O
product | (rac)-2-chloro-5-methyl-9-(2,2-dimethyl-cyclopentyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.130 g | ClC=1N=CC2=C(N(CCC(N2C)=O)C2C(CCC2)(C)C)N1 | C15H21ClN4O
